US09193722B2
3-methyl-2-(piperazin-2-yl)butan-2-ol
A PARR vessel was charged with platinum dioxide (1 g, 4.404 mmol), methanol (70 mL) and 3-methyl-2-pyrazin-2-yl-butan-2-ol (5 g, 30.08 mmol). The vessel was shaken in the PARR under a 60 psi H2 pressure for 24 hours. As the reaction did not go to completion, more platinum dioxide (˜300 mg) was added and the reaction mixture was shaken in the PARR for another 24 hours. The catalyst was filtered off and the filtrate was concentrated in vacuo to give the title compound as a colourless oil (5 g; 97%). 1H NMR (CDCl3) 0.85-0.90 (3H, m), 0.97-1.06 (6H, m), 1.70-1.90 (3H, m), 2.60-2.70 (3H, m), 2.80-2.90 (2H, m), 3.05-3.10 (2H, m).

reactant | 3-methyl-2-pyrazin-2-yl-butan-2-ol | 30.08 mmol, 5 g | CC(C(C)(O)C1=NC=CN=C1)C | C9H14N2O
catalyst | platinum dioxide | 4.404 mmol, 1 g | [Pt](=O)=O
catalyst | platinum dioxide | ˜300 mg | [Pt](=O)=O
solvent | methanol | 70 mL | CO | CH4O
product | 3-methyl-2-(piperazin-2-yl)butan-2-ol | 5 g, 97% | CC(C(C)(O)C1NCCNC1)C | C9H20N2O
